US07041687B2
2-(3-Chloro-2,6-difluorophenyl)-3-cyanopropionic acid methyl ester:
Butyllithium (4.1 mL of 2.5M solution in hexanes, 10.3 mmol) was added to a solution of diisopropylamine (1.4 mL, 10.3 mmol) in THF (15 mL) under nitrogen at 0° C. After 15 minutes the reaction mixture was cooled to −78° C. and a solution of 3-chloro-2,6-difluorophenylacetic acid methyl ester (2.15 g, 9.8 mmol) in THF (15 mL) was added. After 30 minutes, iodoacetonitrile (3.5 mL, 49 mmol) was added rapidly to the reaction mixture. The reaction mixture was allowed to warm to 0° C. and ammonium chloride solution added (10 mL, saturated aqueous). The reaction mixture was concentrated and the residue partitioned between EtOAc and brine. The aqueous phase was extracted with EtOAc and the combined organics were dried over magnesium sulfate then concentrated to afford a black oil. The crude product was purified by column chromatography (silica, 25% EtOAc-petrol to EtOAc) to afford the title compound as a pale yellow oil (1.51 g, 59%); 1H NMR (400 MHz, DMSO) δ 3.06 (1H, dd), 3.19 (1H, dd), 3.67 (3H, s), 4.64 (1H, dd), 7.29 (1H, t), 7.70 (1H, m).

reactant | Butyllithium | 10.3 mmol, 2.5M, 4.1 mL | C(CCC)[Li]
reactant | diisopropylamine | 10.3 mmol, 1.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3-chloro-2,6-difluorophenylacetic acid methyl ester | 9.8 mmol, 2.15 g | COC(CC1=C(C(=CC=C1F)Cl)F)=O | C9H7ClF2O2
reactant | iodoacetonitrile | 49 mmol, 3.5 mL | ICC#N | C2H2IN
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(3-Chloro-2,6-difluorophenyl)-3-cyanopropionic acid methyl ester | 1.51 g, 59% | COC(C(CC#N)C1=C(C(=CC=C1F)Cl)F)=O | C11H8ClF2NO2
